US04511569
Add 23.1 gm of 2-chloro-5,6-dihydro-benzo[f]quinolin-3(4H)-one to 100 ml of 40% aqueous methylamine and 250 ml of water. Heat the system in a steel bomb at 140° C. for 5 days. Stop the reaction and isolate 2-(N-methylamino)-5,6-dihydro-benzo[f]quinolin-3(4H)-one.

reactant | 2-chloro-5,6-dihydro-benzo[f]quinolin-3(4H)-one | 23.1 gm | ClC=1C(NC=2CCC3=C(C2C1)C=CC=C3)=O | C13H10ClNO
reactant | methylamine | 100 ml | CN | CH5N
solvent | water | 250 ml | O | H2O
product | 2-(N-methylamino)-5,6-dihydro-benzo[f]quinolin-3(4H)-one | CNC=1C(NC=2CCC3=C(C2C1)C=CC=C3)=O | C14H14N2O
